US05547954
This compound is prepared in a manner analogous to that of Step D of Example 4, using 6.9 grams (0.044 mole) of 4-chlorophenylboronic acid (commercially available), 25.0 grams (0.100 mole) of 1,3-dibromobenzene, 0.2 gram (catalyst) of tetrakis(triphenylphosphine)palladium(0), 75 mL of aqueous 2M sodium carbonate, and 75 mL of toluene, yielding 3-(4-chlorophenyl)phenyl bromide.

reactant | 4-chlorophenylboronic acid | 0.044 mole, 6.9 grams | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 1,3-dibromobenzene | 0.100 mole, 25.0 grams | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 gram | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-chlorophenyl)phenyl bromide | ClC1=CC=C(C=C1)C=1C=C(C=CC1)Br | C12H8BrCl
